US08350046B2
Synthesis of N-(3′,4′,5′-trifluorobiphenyl-2-yl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide
100.0 g (0.504 mol, 98% pure) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride were dissolved at 25° C. in 257.2 g of toluene. The solution was evacuated to 400 mbar and heated to 85° C. Subsequently, within 3 hours, 492.8 g (0.499 mol, 23% strength) of toluenic 3′,4′,5′-trifluorobiphenyl-2-ylamine solution were metered in, after which stirring was continued for another 1 hour. After venting and cooling to 25° C. with a ramp of 10° C./h, the mixture was stirred overnight. Subsequently, the mixture was cooled to 0° C., and the solid constituents were filtered off, washed with cold toluene and dried at 80° C. under reduced pressure. The yield (without further processing of the mother liquor) was 177.7 g (92%).

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.504 mol, 100.0 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 3′,4′,5′-trifluorobiphenyl-2-ylamine | 0.499 mol, 492.8 g | FC=1C=C(C=C(C1F)F)C1=C(C=CC=C1)N | C12H8F3N
solvent | toluene | 257.2 g | C1(=CC=CC=C1)C | C7H8
product | N-(3′,4′,5′-trifluorobiphenyl-2-yl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide | FC=1C=C(C=C(C1F)F)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)F | C18H12F5N3O
